US04945146
(1a) Synthesis of N-(2,3-dihydroxypropyl)-methacrylamide
4.56 g of 3-amino-1,2-propanediol (0.05 mol) were dissolved in 30 ml of dimethylformamide (anhydrous). This solution, and also 13.8 g of K2CO3, were transferred to a 100 ml three-necked flask fitted with dropping funnel and gas inlet and gas outlet pipe. The mixture was cooled to 0° C. in an ice bath. 6.18 ml of methacryl chloride (0.06 mol), dissolved in 30 ml of dimethylformamide, were added dropwise over 30 minutes with moderate stirring and gentle passage of nitrogen. After stirring for a further hour with ice cooling, the mixture was allowed to warm to room temperature and was stirred for a further 30 minutes. The reaction batch was filtered through a fluted filter, and the residue was discarded. The filtrate was concentrated in a rotary evaporator until a viscous oil was produced. This oil was dissolved in 30 ml of methanol and filtered a second time, and the filtrate was again concentrated in a rotary evaporator. The residual amounts of solvent were removed in a high vacuum. The yield was 8.52 g.

reactant | 3-amino-1,2-propanediol | 0.05 mol, 4.56 g | NCC(CO)O | C3H9NO2
reactant | K2CO3 | 13.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methacryl chloride | 0.06 mol, 6.18 ml | CC(=C)C(=O)Cl | C4H5ClO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | methanol | 30 ml | CO | CH4O
product | N-(2,3-dihydroxypropyl)-methacrylamide | OC(CNC(C(=C)C)=O)CO | C7H13NO3
